US05591735
Preparation of 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol-diacetate
To a solution containing 10 g of 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol in 50 ml of methylene chloride, 7 ml of triethylamine are added and the solution is cooled to 0° C. To this solution 4.4 ml of acetyl chloride are dropwise added while cooling and stirring at such a rate that the temperature remains below 10° C. After termination of the addition the cooling is stopped and the mixture is allowed to warm to room temperature. The complete reaction requires about 16 hours. Thereafter, the excess of acetyl chloride is decomposed by adding water and the methylene chloride solution is washed with aqueous sodium hydroxide solution and then with water until neutral. The methylene chloride phase is dried, evaporated and the residue is purified on a silica gel column to yield 9 g (77.1%) of the title product as a foam.

reactant | 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol | 10 g | O1CCOC12CCN(CC2)[C@@H]2[C@H](C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2)O | C30H50N2O4
reactant | acetyl chloride | 4.4 ml | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 7 ml | C(C)N(CC)CC | C6H15N
product | 2β-(1,4-dioxa-8-azaspiro[4.5]dec-8-yl)-16β-(1-pyrrolidinyl)-5α-androstane-3α,17β-diol diacetate | 9 g, 77.1% | O1CCOC12CCN(CC2)[C@@H]2[C@H](C[C@@H]1CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]1(C2)C)O)N2CCCC2)O.CC(=O)CC(=O)O | InChI=1S/C30H50N2O4.C4H6O3/c1-28-8-7-22-21(23(28)18-24(27(28)34)31-11-3-4-12-31)6-5-20-17-26(33)25(19-29(20,22)2)32-13-9-30(10-14-32)35-15-16-36-30;1-3(5)2-4(6)7/h20-27,33-34H,3-19H2,1-2H3;2H2,1H3,(H,6,7)/t20-,21+,22-,23-,24-,25-,26-,27-,28-,29-;/m0./s1
